### PR TITLE
Added Juggler Conjecture

### LINKED ISSUE #1758: Juggler Sequence / Conjecture
### What is the conjecture
The Juggler Sequence is a sequence governed by a recursive relation. It is of similar nature as the Collatz Conjecture.  

Source: https://en.wikipedia.org/wiki/Juggler_sequence
### Prerequisites needed
Definition of the Juggler Recursive Relation.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-37

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by franzhusch**
Closes #1758

### CODE REVIEW

File: FormalConjectures/Wikipedia/JugglerConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/JugglerConjecture.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/Wikipedia/JugglerConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+  if Even n then ⌊(n : ℝ) ^ (1/2 : ℝ)⌋₊ else ⌊(n : ℝ) ^ (3/2 : ℝ)⌋₊
+
+/--
+Now form a sequence beginning with any positive integer, where each subsequent term is obtained
+by applying the operation defined above to the previous term.
+The **Juggler Conjecture** states that for any positive integer $n$, there exists a natural number
+$m$ such that the $m$-th term of the sequence is 1.
+-/
+@[category research open, AMS 11 37]
+theorem jugglerConjecture (n : ℕ) (hn : n > 0) : ∃ m : ℕ, jugglerStep^[m] n = 1 := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/JugglerConjecture.lean]:
```suggestion
theorem juggler_conjecture (n : ℕ) (hn : n > 0) : ∃ m, jugglerStep^[m] n = 1 := by
```
I think this is closer to the naming convention?
(Should also be fixed for `collatzConjecture`)

File: FormalConjectures/Wikipedia/JugglerConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+If the number is odd, take the floor of n raised to the 3/2 power.
+-/
+noncomputable def jugglerStep (n : ℕ) : ℕ :=
+  if Even n then ⌊(n : ℝ) ^ (1/2 : ℝ)⌋₊ else ⌊(n : ℝ) ^ (3/2 : ℝ)⌋₊
+
+/--
+Now form a sequence beginning with any positive integer, where each subsequent term is obtained
+by applying the operation defined above to the previous term.
+The **Juggler Conjecture** states that for any positive integer $n$, there exists a natural number
+$m$ such that the $m$-th term of the sequence is 1.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/JugglerConjecture.lean]:
```suggestion
$m$ such that the $m$-th term of the sequence is $1$.
```

File: FormalConjectures/Wikipedia/JugglerConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+namespace JugglerConjecture 
+
+/--
+Consider the following operation on the natural numbers:
+If the number is even, take the floor of the square root.
+If the number is odd, take the floor of n raised to the 3/2 power.
+-/
+noncomputable def jugglerStep (n : ℕ) : ℕ :=
+  if Even n then ⌊(n : ℝ) ^ (1/2 : ℝ)⌋₊ else ⌊(n : ℝ) ^ (3/2 : ℝ)⌋₊
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/JugglerConjecture.lean:34]:
```suggestion

@[category test, AMS 11 37]
theorem juggler_sequence_two : ∃ m, jugglerStep^[m] 2 = 1 := by
  use 1
  unfold jugglerStep
  norm_num [←Real.sqrt_eq_rpow]

```

Perhaps let's add a test statement like this (+ docstring for that)

File: FormalConjectures/Wikipedia/JugglerConjecture.lean (hunk 2 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/JugglerConjecture.lean]: Should I also make the fix for `collatzConjecture` in this PR?

Comment (mo271) [reply FormalConjectures/Wikipedia/JugglerConjecture.lean]: either in this pr or in a separate sounds great!

File: FormalConjectures/Wikipedia/JugglerConjecture.lean (hunk 4 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/JugglerConjecture.lean:34]: I had that before to test it but wasnt sure if it was needed. Will add it back in.

File: FormalConjectures/Wikipedia/JugglerConjecture.lean (hunk 2 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/JugglerConjecture.lean]: Ok I will just add it into this one.

File: FormalConjectures/Wikipedia/JugglerConjecture.lean (hunk 4 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/JugglerConjecture.lean:34]: Added it back in.

File: FormalConjectures/Wikipedia/JugglerConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,56 @@
...
+/-- Example: jugglerStep 36 = ⌊36^(1/2)⌋ = ⌊6⌋ = 6 (since 36 is even). -/
+@[category test, AMS 11]
+theorem jugglerStep_36 : jugglerStep 36 = 6 := by
+  unfold jugglerStep
+  simp only [show Even 36 by decide, ↓reduceIte]
+  norm_cast
+  have key : (36 : ℝ) ^ ((1 : ℝ) / 2) = 6 := by rw [← Real.sqrt_eq_rpow]; norm_num
+  conv_lhs => rw [key]
+  simp
```
Comment (mo271) [inline FormalConjectures/Wikipedia/JugglerConjecture.lean]:
```suggestion
  norm_num [←Real.sqrt_eq_rpow]
  decide
```

Also a good test. Feel free to also add the version of the test I proposed in addition to that, but perhaps having one tests suffices...

**Comment by mo271** [comment]
The build fails because `ErdosProblems/1135.lean` uses the name `collatzConjecture`, so it should also be changed there..

**Review by mo271 — APPROVED** [review]
